US07579488B2
Step C: 4-[1-(5-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenol
3-(5-Benzyloxy-benzofuran-2-yl)-pentan-3-ol (6.10 g, 19.7 mmol) and o-cresol (2.55 g, 23.6 mmol) and BF3—OEt2 (1.39 g, 9.83 mmol) in CH2Cl2 are reacted analogous to Example 18-C to give the title compound (4.05 g, 51%).

reactant | 3-(5-Benzyloxy-benzofuran-2-yl)-pentan-3-ol | 19.7 mmol, 6.10 g | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)C(CC)(CC)O)C1 | C20H22O3
reactant | o-cresol | 23.6 mmol, 2.55 g | C1(=CC=CC=C1O)C | C7H8O
reactant | BF3 OEt2 | 9.83 mmol, 1.39 g | B(F)(F)F.O(CC)CC
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[1-(5-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenol | 4.05 g, 51% | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)C(CC)(CC)C2=CC(=C(C=C2)O)C)C1 | C27H28O3
